US07342127B2
N-[3,5-dibromo-4-[3-ethyl-4-hydroxy-5-isopropylphenoxy]-2-methylphenyl]malonamic acid ethyl ester of Part 9D (130 mg, 0.23 mmol) was dissolved in THF (2 mL) and treated with LiOH (2 mL, 1N) for 1 hour at room temperature. The reaction was acidified with 1N HCl and concentrated in vacuo. The remaining water phase was extracted with EtOAc (3×5 mL) and the combined organic phases were dried over Na2SO4 before concentration in vacuo. The residue was purified on column (MPLC, silica gel, gradient elution: CHCl3/MeOH/AcOH from 1:0:0 to 98:2:0.3) to give 50 mg (41%) of N-[3,5-dibromo-4-[3-ethyl-4-hydroxy-5-isopropylphenoxy]-2-methylphenyl]-malonamic acid as a white solid.

reactant | N-[3,5-dibromo-4-[3-ethyl-4-hydroxy-5-isopropylphenoxy]-2-methylphenyl]malonamic acid ethyl ester | C(C)OC(CC(=O)NC1=C(C(=C(C(=C1)Br)OC1=CC(=C(C(=C1)C(C)C)O)CC)Br)C)=O | C23H27Br2NO5
reactant | LiOH | 1N, 2 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-[3,5-dibromo-4-[3-ethyl-4-hydroxy-5-isopropylphenoxy]-2-methylphenyl]-malonamic acid | 50 mg, 41% | BrC=1C(=C(C=C(C1OC1=CC(=C(C(=C1)C(C)C)O)CC)Br)NC(CC(=O)O)=O)C | C21H23Br2NO5
